US07897607B2
1-(2,4-Dimethylphenyl)-4-(1-ethylpropoxy)-6-methyl-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one
To a solution 3-pentanol (0.064 ml, 0.60 mmol) in DMF (1 ml) was added sodium hydride (60% in oil, 24 mg, 0.60 mmol). The mixture was stirred for 10 min before addition of 4-chloro-1-(2,4-dimethylphenyl)-6-methyl-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one (43.2 mg, 0.15 mmol). The mixture was stirred at 60° C. for 3 hours, then dilated with water (30 ml) and extracted with ethyl acetate (50 ml). The extract was washed with water, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with hexane/ethyl acetate (5:1) to give 48 mg (94%) of the title compound as an oil.

reactant | 3-pentanol | 0.60 mmol, 0.064 ml | CCC(CC)O | C5H12O
reactant | sodium hydride | 0.60 mmol, 24 mg | [H-].[Na+]
reactant | 4-chloro-1-(2,4-dimethylphenyl)-6-methyl-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one | 0.15 mmol, 43.2 mg | ClC=1C2=C(C(N(N1)C)=O)N(C=C2)C2=C(C=C(C=C2)C)C | C15H14ClN3O
reactant | water | 30 ml | O | H2O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 1-(2,4-Dimethylphenyl)-4-(1-ethylpropoxy)-6-methyl-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one | 48 mg, 94% | CC1=C(C=CC(=C1)C)N1C=CC2=C1C(N(N=C2OC(CC)CC)C)=O | C20H25N3O2
